US04847256
A mixture of 98.3 g of 2',5'-dichloro-3-dimethylaminoacrylophenone and 43.5 g of 3-aminopyrazole-4-carbonitrile in one liter of glacial acetic acid was heated at reflux for 63/4 hours. The reaction mixture was cooled and diluted with water to provide a precipitate which was collected, washed with water and dried in vacuo to give 107.6 g of 7-(2,5-dichlorophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile as pale yellow crystals, mp 202°-204° C.

reactant | 2',5'-dichloro-3-dimethylaminoacrylophenone | 98.3 g | ClC1=C(C=C(C=C1)Cl)C(C=CN(C)C)=O | C11H11Cl2NO
reactant | 3-aminopyrazole-4-carbonitrile | 43.5 g | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | one liter | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-(2,5-dichlorophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 107.6 g | ClC1=C(C=C(C=C1)Cl)C1=CC=NC=2N1N=CC2C#N | C13H6Cl2N4
